US09422281B2
N,N-Diisopropylethylamine (0.041 mL, 0.232 mmol) was added to a solution of (S)-2-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)benzo[d]oxazole (0.016 g, 0.046 mmol) and cyclopropanecarbonyl chloride (0.021 mL, 0.232 mmol) in 1,2-dichloroethane (1.0 mL), and the mixture stirred at 50° C. for 2.5 h. The reaction mixture was partitioned between water and dichloromethane. The aqueous phase was separated and extracted with dichloromethane. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford (S)-(4-(benzo[d]oxazol-2-yl)-6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(cyclopropyl)methanone (0.019 g, 99%) as a brown oil. MS (ESI, pos. ion) m/z 412, 414 [M+H]+.

reactant | N,N-Diisopropylethylamine | 0.232 mmol, 0.041 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-2-(7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-yl)benzo[d]oxazole | 0.046 mmol, 0.016 g | BrC1=CC=C2N[C@H](CN(C2=C1)C=1OC2=C(N1)C=CC=C2)C | C16H14BrN3O
reactant | cyclopropanecarbonyl chloride | 0.232 mmol, 0.021 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | 1,2-dichloroethane | 1.0 mL | ClCCCl | C2H4Cl2
product | (S)-(4-(benzo[d]oxazol-2-yl)-6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)(cyclopropyl)methanone | 0.019 g, 99% | O1C(=NC2=C1C=CC=C2)N2C[C@@H](N(C1=CC=C(C=C21)Br)C(=O)C2CC2)C | C20H18BrN3O2
